US08455534B2
Step 1: (3-Cyclopropylprop-1-yn-1-yl)trimethylsilane
A 500 mL three-necked round bottom flask was charged with (trimethylsilyl)acetylene (15 g, 153 mmol) and dry THF (75 mL). The solution was cooled to −78° C., and a solution of n-butyllithium in hexane (2.5 M, 75 mL, 188 mmol) was added dropwise over 30 minutes. The resulting mixture was stirred at 0° C. for 10 minutes and then re-cooled to −78° C. HMPA (40 g, 223 mmol) was added, and the mixture was stirred at −78° C. for 30 minutes. (Bromomethyl)cyclopropane (20.6 g, 153 mmol) was then added. The reaction mixture was allowed to warm to room temperature and stirred overnight. Upon completion, the reaction mixture was washed with water (4×100 mL) and brine (2×100 mL) sequentially. The organic layer was dried over anhydrous sodium sulfate. Hexane and THF was distilled off at 75110° C. then distillation at 138142° C. afforded the title compound (12 g). 1H NMR (400 MHz, DMSO-d6): δ 2.27 (d, 2H), 0.91-0.84 (m, 1H), 0.43-0.34 (m, 2H), 0.19-0.14 (m, 2H), 0.11 (s, 9H).

reactant | (trimethylsilyl)acetylene | 153 mmol, 15 g | C[Si](C)(C)C#C | C5H10Si
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 188 mmol, 2.5 M, 75 mL | CCCCCC | C6H14
reactant | HMPA | 223 mmol, 40 g | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | (Bromomethyl)cyclopropane | 153 mmol, 20.6 g | BrCC1CC1 | C4H7Br
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | (3-Cyclopropylprop-1-yn-1-yl)trimethylsilane | 12 g | C1(CC1)CC#C[Si](C)(C)C | C9H16Si
